Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Hypernatremia 
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ y/o M PMH cerebral palsy, GERD, ___, MR, 
seizures, presents as referral from PCP office for ___ of 125 
found on routine labs from ___. 

History obtained from mother as patient is nonverbal. Patient 
had routine labs drawn on ___, and was called by PCP to come 
in for eval for ___ of 125. Patient otherwise currently at 
baseline per mother, non-verbal. Has nearly daily seizures which 
have not changed in frequency or intensity over the past couple 
weeks. No change in urine output. No apparent distress or other 
changes. 

ED spoke with PCP coverage Dr. ___ - ___ have been working on 
managing hyponatremia in the setting of carbamazepine use (which 
neurology says needs to remain as is for seizure disorder) but 
have not been able to effectively treat it and would like 
inpatient admission for further management, which will likely 
entail fluid restriction and possibly salt tabs. 
 
Free water restriction has been discussed with patient's mother 
in the past. Patient does not consume copius amounts of free 
water and patient has minimal salt on his food.    

In the ED, initial VS were T 98, HR 75, BP 128/93, RR 16, O2 95% 
.  
Exam notable for Awake, somewhat responsive to external stimuli 
but not following commands, decorticate posturing, increased 
tone, decreased bulk, PEERLA. All per mother is at baseline. 
Labs showed ___ 126, K 4.1, Cl88, HCO3 ___ BUN 5, Cr0.4, CBC wnl. 
UA unremarkable- with trace leuk, 2RBCs, Few bacteria. Urine 
lytes pending.   
Imaging showed EKG with normal sinus rhythm, rate 66, QTc 414. 
Did not receive any medication in the ED.
Transfer VS were HR 77, BP 114/76, RR 18, O2 98% RA   
Decision was made to admit to medicine for further management.  

Patient's mother reports that patient is at his baseline. He has 
been more fatigued during the day time for the past few months. 
Patient has frequent seizure at baseline, mostly at night. He 
has frequent seizures with muscle spasms and maintained level of 
alertness. Sustained seizures occur ___ times per month with 
altered level of consciousness, wide eyes, head movement from 
side to side and flinging of extremities. At that point 
patient's mother administers diazepam PR. Patient reports that 
patient is currently at his baseline. 

 
Past Medical History:
Cerebral palsy- Dependent on mother for ADLs - ___ 
baclofen pump removed ___, with tubing clamped off, 
complicated by      
breakage of the tubing, requiring revision surgery ___     
GERD- Has had surgical treatment for this (mother unsure of 
nature  
of procedure) in the past
Ladau-klefner syndrome
MR                                                           
Scoliosis                                          
Seizure disorder- Followed by Dr. ___ - ___ at age ___ 
Balantis

Surgical History:                       
Corpus colostomy
Hip surgery                                               
Spinal fusion
Orchiopexy
Intrathecal pump   
 
Social History:
___
Family History:
Mother: DM, Father: DM

 
Physical ___:
ADMISSION EXAM:
===============
VS: 98.1 120 / 78 78 18 98 RA  
GENERAL: Awake, somewhat responsive to external stimuli but not 
following commands.  
HEENT: AT/NC, PERRL 
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: Anterior breath sounds clear to auscultation
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: Flexed elbows, knees and wrists. Contracted 
muscles/increased tone.  Decreased bulk. 
PULSES: 2+ DP pulses bilaterally  
NEURO: Decorticate posturing, increased tone 
SKIN: Warm and well perfused, no excoriations or lesions, no 
rashes 

DISCHARGE EXAM:
===============
VS -Tc 97.9 HR 76 BP 130/83 RR 18 02 sat 100% on RA  
GENERAL: Awake, somewhat responsive to external stimuli but not 
following commands.  
HEENT: AT/NC, PERRL 
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: Anterior breath sounds clear to auscultation
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: Flexed elbows, knees and wrists. Contracted 
muscles/increased tone.  Decreased bulk. 
PULSES: 2+ DP pulses bilaterally  
NEURO: Decorticate posturing, increased tone 
SKIN: Warm and well perfused, no excoriations or lesions, no 
rashes 
 
Pertinent Results:
ADMISSION LABS:
===============
___ 12:56PM BLOOD WBC-7.5 RBC-4.88 Hgb-14.4 Hct-40.4 MCV-83 
MCH-29.5 MCHC-35.6 RDW-12.5 RDWSD-37.8 Plt ___
___ 12:56PM BLOOD Neuts-53.4 ___ Monos-10.1 Eos-1.1 
Baso-0.5 Im ___ AbsNeut-4.00 AbsLymp-2.59 AbsMono-0.76 
AbsEos-0.08 AbsBaso-0.04
___ 12:56PM BLOOD Glucose-92 UreaN-5* Creat-0.4* ___ 
K-4.1 Cl-88* HCO3-25 AnGap-17
___ 09:46PM BLOOD Calcium-8.9 Phos-4.3 Mg-2.1
___ 09:46PM BLOOD Osmolal-270*
___ 12:56PM BLOOD Carbamz-13.4*

DISCHARGE LABS:
================
___ 04:05AM BLOOD WBC-7.1 RBC-4.70 Hgb-14.1 Hct-38.8* 
MCV-83 MCH-30.0 MCHC-36.3 RDW-12.3 RDWSD-37.2 Plt ___
___ 04:05AM BLOOD Glucose-88 UreaN-7 Creat-0.3* ___ 
K-4.0 Cl-91* HCO3-22 AnGap-18
___ 04:05AM BLOOD ALT-19 AST-18 AlkPhos-117 TotBili-0.2
___ 04:05AM BLOOD Calcium-9.0 Phos-5.1* Mg-2.1
___ 04:05AM BLOOD TSH-1.7
___ 04:05AM BLOOD Cortsol-3.2
___ 04:10PM BLOOD ___

MICRO:  
======
None

IMAGING:  
========
None

 
Brief Hospital Course:
___ y/o M ___ cerebral palsy, GERD, ___, MR, 
seizures, presents as referral from PCP office for ___ of 125 
found on routine labs from ___ now admitted for further 
management of hyponatremia. 

#Chronic hyponatremia: 
Patient has known chronic hyponatremia (baseline 130-132) in 
setting of carbamazepine. Etiology of current hyponatremia 
thought to be from SIADH due to carbamazepine. He was placed on 
fluid restriction and given that he has been on this AED regimen 
for several years, decision was made to hold off on changing AED 
regimen. Serum ___ improved upon discharge to 130. 

#Seizure ___ syndrome: 
Onset of seizures at age ___ with ___ syndrome. 
Patient's seizures have been refractory to many medications. 
Maintained on levetiracetam 5250 and carbamazepine 1600 mg a 
day, which he has been on for years. Per neurologist he will 
need to remain on this medication regimen. When patient has 
prolonged seizures with loss of consciousness his mother 
administers ___, which happens approximately twice per 
month.  

#CP/Mental retardation: 
Patient provided with full time care from parents and ___. 
Patient at baseline per patient's mother. 

#Nutritional status:
Patient with weight approximately 150lbs. Per patient's mother 
he is on a ground diet at home. He eats what his family eats in 
a ground format. He drinks approximately 40-50oz per day. 

Transitional Issues:
=====================
-f/u Chem-7 in at ___ appointment on ___
-continue 2L free-water restriction; if continues to be low, can 
initiate salt tabs as outpatient
-f/u TSH/cortisol for evaluation of euvolemic hyponatremia
-code: full
-contact: ___ (mother): ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. ___ AcuDial (diazePAM) 12.5-15-17.5-20 mg Other DAILY:PRN 

2. Carbamazepine (Extended-Release) 800 mg PO BID 
3. LevETIRAcetam 2250 mg PO QAM 
4. LevETIRAcetam 3000 mg PO QHS 

 
Discharge Medications:
1.  Carbamazepine (Extended-Release) 800 mg PO BID  
2.  ___ AcuDial (diazePAM) 12.5-15-17.5-20 mg Other 
DAILY:PRN seizure   
3.  LevETIRAcetam 2250 mg PO QAM  
4.  LevETIRAcetam 3000 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
-hyponatremia

Secondary:
-epilepsy
-cerebral palsy

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at the ___ 
___. You came to the hospital because your 
blood salt levels (sodium) were low. This was thought to be from 
your seizure medication (carbamazepine). You will need to limit 
your water intake to no more than 2 liters/day (67oz). You will 
have your blood checked again by your primary care doctor, ___. 
___.

Please continue taking your medications as listed below.

Wishing you the best,
Your ___ team
 
Followup Instructions:
___